US08222263B2
To a stirred solution of N-[2-methyl-5-(1H-tetrazol-5-yl)phenyl]-4-[(4-phenylquinazolin-2-yl)amino]benzamide (100 mg, 0.20 mmol) in dimethylformamide (2 mL) was added potassium carbonate (83 mg, 0.60 mmol) and methyl iodide (100 μL, 1.6 mmol) and the mixture was allowed to stir at rt overnight. The mixture was purified by preparative reverse phase HPLC to give N-[2-methyl-5-(2-methyl-2H-tetrazol-5-yl)phenyl]-4-[(4-phenylquinazolin-2-yl)amino]benzamide (51 mg, 50%). 1H NMR (400 MHz, DMSO-d6): δ 10.34 (s, 1H), 9.84 (s, 1H), 8.20 (d, 2H), 8.16 (d, 1H), 8.02 (d, 2H), 7.91-7.78 (m, 5H), 7.66-7.64 (m, 3H), 7.47 (d, 1H), 7.42 (ddd, 1H), 4.43 (s, 3H), 2.35 (s, 3H). MS (EI) for C30H24N8O: 513.3 (MH+).

reactant | N-[2-methyl-5-(1H-tetrazol-5-yl)phenyl]-4-[(4-phenylquinazolin-2-yl)amino]benzamide | 0.20 mmol, 100 mg | CC1=C(C=C(C=C1)C1=NN=NN1)NC(C1=CC=C(C=C1)NC1=NC2=CC=CC=C2C(=N1)C1=CC=CC=C1)=O | C29H22N8O
reactant | potassium carbonate | 0.60 mmol, 83 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 1.6 mmol, 100 μL | CI | CH3I
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | N-[2-methyl-5-(2-methyl-2H-tetrazol-5-yl)phenyl]-4-[(4-phenylquinazolin-2-yl)amino]benzamide | 51 mg, 50% | CC1=C(C=C(C=C1)C=1N=NN(N1)C)NC(C1=CC=C(C=C1)NC1=NC2=CC=CC=C2C(=N1)C1=CC=CC=C1)=O | C30H24N8O
